US08895545B2
b) (E)-3-(4-Acetyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide hydrochloride
A solution of (E)-3-(4-acetyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide (89 mg, 0.21 mmol) in CH2Cl2 (4 mL) was treated with anhydrous HCl (0.21 mL of a 1.0 M solution in Et2O, 0.21 mmol). After stirring for 15 min, the mixture was diluted with Et2O (25 mL) and allowed to stir for 2 h. The solid was isolated by filtration, washed with Et2O and dried under vacuum at 50° C. for 3 days to give the title compound (83 mg, 88%) as a white powder and as a mixture of amide rotamers; 1H NMR (300 MHz, DMSO-d6) δ8.46-8.23 (m, 3H), 7.58-7.22 (m, 6H), 5.02-4.80 (m, 4H), 3.87-3.74 (m, 4H), 3.19-2.90 (m, 3H), 2.26 (s, 3H), 2.03-1.99 (m, 3H); MS (ESI) m/e 419 (M+H)+.

reactant | (E)-3-(4-acetyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide | 0.21 mmol, 89 mg | C(C)(=O)N1CCNC2=C(C1)C=C(C=N2)/C=C/C(=O)N(CC=2OC1=C(C2C)C=CC=C1)C | C24H26N4O3
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | (E)-3-(4-Acetyl-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)-N-methyl-N-(3-methylbenzofuran-2-ylmethyl)acrylamide hydrochloride | 83 mg, 88% | Cl.C(C)(=O)N1CCNC2=C(C1)C=C(C=N2)/C=C/C(=O)N(CC=2OC1=C(C2C)C=CC=C1)C | InChI=1S/C24H26N4O3.ClH/c1-16-20-6-4-5-7-21(20)31-22(16)15-27(3)23(30)9-8-18-12-19-14-28(17(2)29)11-10-25-24(19)26-13-18;/h4-9,12-13H,10-11,14-15H2,1-3H3,(H,25,26);1H/b9-8+;
